US06960575B2
N1-Isopropyl-(2RS,3S)-3-amino-2-hydroxy-4-phenylbutyramide (Reference compound No. 21-1)
A 4 M hydrogen chloride/ethyl acetate solution (2 ml) is added to N1-isopropyl-(2RS,3S)-3-(tert-butoxycarbonylamino)-2-hydroxy-4-phenylbutyramide (300 mg, Reference compound No. 20-1), and the mixture is stirred for five hours. The reaction mixture is concentrated under reduced pressure, a saturated aqueous sodium hydrogencarbonate solution is added to the resulting residue, and the whole is extracted with ethyl acetate. The extract is washed with water and saturated brine successively and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure to give the titled reference compound (212 mg).

reactant | hydrogen chloride ethyl acetate | 4 M, 2 ml | Cl.C(C)(=O)OCC
reactant | N1-isopropyl-(2RS,3S)-3-(tert-butoxycarbonylamino)-2-hydroxy-4-phenylbutyramide | C(C)(C)NC(C([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)O)=O | C18H28N2O4
product | N1-Isopropyl-(2RS,3S)-3-amino-2-hydroxy-4-phenylbutyramide | 212 mg | C(C)(C)NC(C([C@H](CC1=CC=CC=C1)N)O)=O | C13H20N2O2
